US05071875
Using a procedure similar to that described in Example 1, 0.30 g of 8-methoxy-2-amino-tetralin yielded 0.23 g (69%) of 8-methoxy-2-acetamido-tetralin following treatment with acetic anhydride.

reactant | 8-methoxy-2-amino-tetralin | 0.30 g | COC=1C=CC=C2CCC(CC12)N | C11H15NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 8-methoxy-2-acetamido-tetralin | 0.23 g, 69% | COC=1C=CC=C2CCC(CC12)NC(C)=O | C13H17NO2
